US09120822B2
A mixture of 6-methoxy-3-trifluoromethanesulfonyloxy-quinoline-4-carboxylic acid methyl ester (3.69 g, 10.10 mmol, 1.0 eq), (4-methoxy-phenyl)-methanethiol (3.43 g, 22.22 mmol, 2.2 eq), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (409 mg, 0.71 mmol, 0.07 eq), tris(dibenzylideneacetone)dipalladium(0) (925 mg, 1.01 mmol, 0.1 eq) and N,N-diisopropylethylamine (3.46 mL, 20.20 mmol, 2.0 eq) in dioxane (40 mL) is heated under reflux for 16 hours, then filtered through decalite and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 5:1, v/v) to afford 6-methoxy-3-(4-methoxy-benzylsulfanyl)-quinoline-4-carboxylic acid methyl ester as an off-white solid (3.30 g, 88% yield).

reactant | 6-methoxy-3-trifluoromethanesulfonyloxy-quinoline-4-carboxylic acid methyl ester | 10.10 mmol, 3.69 g, 1.0 eq | COC(=O)C1=C(C=NC2=CC=C(C=C12)OC)OS(=O)(=O)C(F)(F)F | C13H10F3NO6S
reactant | (4-methoxy-phenyl)-methanethiol | 22.22 mmol, 3.43 g, 2.2 eq | COC1=CC=C(C=C1)CS | C8H10OS
reactant | N,N-diisopropylethylamine | 20.20 mmol, 3.46 mL, 2.0 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.01 mmol, 925 mg, 0.1 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.71 mmol, 409 mg, 0.07 eq | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 6-methoxy-3-(4-methoxy-benzylsulfanyl)-quinoline-4-carboxylic acid methyl ester | 3.30 g, 88% yield | COC(=O)C1=C(C=NC2=CC=C(C=C12)OC)SCC1=CC=C(C=C1)OC | C20H19NO4S
